Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
One episode of difficulty with memory lasting a few hours.
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year old man who today experienced
transient memory loss. He went for a ___nd came back
home and took a nap. His wife describes that he was much more
active in the past day than usual: raking leaves, doing chores,
running, etc. He has been gradually working up his exercise
routine (up to ___ miles now) since ___, before which he 
was
not exercising much, and he has been escalating his routine even
more recently. After the nap, he awoke and his wife noted that 
he
had no recall of prior events of the day. He also kept asking 
the
same questions repeatedly. She did not notice any other
irregularities of behavior, facial asymmetry, weakness, or other
symptoms. He denied any other symptoms. She urged him to be seen
and he was sent to ___. He had a negative head 
CT
there (except enlarged ventricles) and then was sent here for
further evaluation. He recalls going for a run outside but does
not remember taking a nap. He remember everything after his
arrival at ___ and the subsequent ambulance ride
(including details of the route). During this interview, he
recalls certain details but continues to repeatedly make certain
statements ("I missed my metformin dose tonight" and "Can 
someone
call my wife to update her?") without memory of having made 
those
statements. He was otherwise well recently with no other 
symptoms
or illnesses.

On neurologic review of systems, the patient endorses memory
difficulty.
Denies headache, lightheadedness, or confusion. 
Denies difficulty with producing or comprehending speech.
Denies loss of vision, blurred vision, diplopia, vertigo,
tinnitus, hearing difficulty, dysarthria, or dysphagia.
Denies muscle weakness.
Denies loss of sensation.
Denies bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the patient denies fevers, rigors,
night sweats, or noticeable weight loss.
Denies chest pain, palpitations, dyspnea, or cough.
Denies nausea, vomiting, diarrhea, constipation, or abdominal
pain.
Denies dysuria or hematuria.
Denies myalgias, arthralgias, or rash.

 
Past Medical History:
Neurologic - Cerebral palsy (residual left contractures)
Cardiovascular - HL
Endocrine - DM2

 
Social History:
___
Family History:
TIAs (3, mother at elderly age). Otherwise no
strokes, no seizures, no neurologic disease. DM2 (father,
brother). DM1 (mother).

 
Physical Exam:
Physical Exam on Admission:

Physical Examination:
VS T: 98.0 HR: 70 BP: 156/84 RR: 16 SaO2: 96%RA 
General: NAD, lying in bed comfortably, fit elderly man. / Head:
NC/AT, no conjunctival icterus, no oropharyngeal lesions / Neck:
Supple, no nuchal rigidity, no meningismus, no bruits /
Cardiovascular: RRR, no M/R/G / Pulmonary: Equal air entry
bilaterally, no crackles or wheezes / Abdomen: Soft, NT, ND, 
+BS,
no guarding / Extremities: Warm, no edema, palpable
radial/dorsalis pedis pulses / Skin: No rashes or lesions

Neurologic Examination:

- Mental Status - Awake, alert, oriented x 3. Attention to
examiner easily attained and maintained. Concentration 
maintained
when recalling months backwards. Recalls a coherent history.
Structure of speech demonstrates fluency with full sentences,
intact repetition, and intact verbal comprehension. Content of
speech demonstrates intact naming (high and low frequency) and 
no
paraphasias. Normal prosody. No dysarthria. Verbal registration
and recall ___ at 5 minutes (no improvement with categorical
cues). No apraxia. No evidence of hemineglect. No left-right
agnosia.

- Cranial Nerves - [II] PERRL 3->1.5 brisk. VF full to number
counting. [III, IV, VI] EOMI, no nystagmus. [V] V1-V3 without
deficits to light touch bilaterally. [VII] No facial asymmetry
with forced eyelid closure or volitional/emotional smiles. 
[VIII]
Hearing intact to finger rub bilaterally. [IX, X] Palate
elevation symmetric. [XI] SCM/Trapezius strength ___ 
bilaterally.
[XII] Tongue midline.

- Motor - Normal bulk, possible contracture at the left elbow. 
No
pronation, no drift. No tremor or asterixis.
=[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas] 
[___]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]  [L5]
L  5      5     5     5     5    5    5      5     5    5     5
R  5      5     5     5     5    5    5      5     5    5     5

- Sensory - No deficits to light touch, pin, or proprioception
bilaterally.

- Reflexes
=[Bic] [Tri] [___] [Quad] [Gastroc]
L 2      2      2      2        2
R 2      2      2      2        2
Brisker on the left than right. Plantar response flexor on 
right,
mute on left.

- Coordination - No dysmetria with finger to nose testing
bilaterally (slight wave of arm on left due to contracture). 
Good
speed and intact cadence with rapid alternating movements.

- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. No Romberg.

Physical Exam on Discharge:
Physical Exam:
> Vitals: T:97.5 P:68 BP:123/76 RR: 16 SaO2:99 on RA
> General: Awake, cooperative, NAD.
> HEENT: NC/AT, no scleral icterus, MMM, clear oropharynx
> Pulmonary: Lungs CTA bilaterally without R/R/W
> Cardiac: RRR
> Abdomen: NT/ND
> Extremities: No C/C/E bilaterally
> Skin: no rashes or lesions
> 
> Neurologic:
> -Mental Status: Alert, oriented x 3. Attentive, able to name 
___ backward without difficulty. Able to relate history with 
some difficulty because he does not remember exactly what 
happened to him. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt. was able to name both high and low frequency objects. Speech 
was not dysarthric. Pt. was able to register 3 objects and 
recall ___ at 15 minutes. There was no evidence of apraxia or 
neglect.
> 
> -Cranial Nerves:
> I: Olfaction not tested.
> II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
> III, IV, VI: EOMI without nystagmus. Normal saccades.
> V: Not tested
> VII: No facial droop, facial musculature symmetric.
> VIII: Not tested
> IX, X: Not tested
> XI: Not tested
> XII: Not tested
 
> -Motor: Normal bulk, tone throughout. No pronator drift. No 
adventitious movements. No asterixis.
 
> -Coordination: No dysmetria on FNF.
 
> -Gait: Good initiation. Narrow-based, normal stride and arm 
swing.

Exam on discharge:
VSS
NAD, comfortable
Breathing nonlabored
Mental state crisp, fully oriented, conversing appropriately 
with normal speech/fluency/comprehension/repetition/prosody, 
memory excellent
CN: PERRL, EOM intact, VF full, face symmetric, tongue midline
Motor: left arm & leg smaller compared to right, mild UMN-type 
weakness in left arm consistent with known cerebral palsy
Coordination: no dysmetria on FNF, no rebound
 
Pertinent Results:
___ 09:10AM BLOOD WBC-6.4 RBC-4.71 Hgb-14.5 Hct-41.9 MCV-89 
MCH-30.8 MCHC-34.6 RDW-12.8 Plt ___
___ 11:30PM BLOOD Neuts-61.3 ___ Monos-10.0 Eos-3.7 
Baso-0.9
___ 09:10AM BLOOD Plt ___
___ 09:10AM BLOOD ___ PTT-35.1 ___
___ 09:10AM BLOOD Glucose-108* UreaN-18 Creat-0.7 Na-139 
K-4.1 Cl-103 HCO3-26 AnGap-14
___ 11:30PM BLOOD ALT-29 AST-31 AlkPhos-56 TotBili-1.4
___ 09:10AM BLOOD CK(CPK)-106
___ 11:30PM BLOOD Albumin-4.2 Calcium-9.3 Phos-3.9 Mg-2.1
___ 09:10AM BLOOD %HbA1c-5.6 eAG-114
___ 11:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

CHEST (PA & LAT) Study Date of ___ 11:40 ___:
Findings:  The lungs are well expanded and clear.  Heart size is 
normal.  Mild aortic tortuosity.  Mild reversal of lower 
thoracic kyphosis, with multiple prominent right lateral 
bridging osteophytes.  Mild right acromioclavicular and 
glenohumeral arthropathy. 

MR ___ Contrast: preliminary read: no stroke
 
Brief Hospital Course:
The patient is a ___ year old man who today experienced transient 
memory loss.
Patient initially went to ___ where a ___ 
ruled out hemorragic stroke. He was then transfered to ___ for 
further work up. During his initial interview, he recalls 
certain details but continues to repeatedly make certain
statements ("I missed my metformin dose tonight" and "Can 
someone call my wife to update her?") without memory of having 
made those statements. He was otherwise well recently with no 
other symptoms or illnesses. He had no other neurological signs 
or symptoms. His exam the next day revealed no memory deficit. 
Due to the rapid recovery of his memory we believe he suffered 
from a Transient Global Amnesia and not a stroke. MRI also 
failed to demonstrate any stroke or other acute changes. 

Stroke risk factor labs were drawn at admission and showed an 
A1C of 5.6, and a FLP of TChol 168 ___ 40 HDL 65 LDL 95. 
 
Medications on Admission:
ASA 81
Atorvastatin 10 
Metformin 500 BID 
Propecia 1 mg
Artificial tears 
Diclofenac sodium 50 BID

 
Discharge Medications:
1. Artificial Tears ___ DROP BOTH EYES Q8H:PRN dry eyes 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 10 mg PO DAILY 
4. MetFORMIN (Glucophage) 500 mg PO BID 
5. Finasteride 1 mg PO DAILY 
6. Diclofenac Sodium ___ 50 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Global Amnesia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory

 
Discharge Instructions:
You were admitted due to an episode of memory problems that seem 
to have resolved. You were evaluated for stroke, however this 
was ruled out by Magnetic Resonance Imaging(MRI). Since stroke 
was ruled out we believe you had what is called a Transient 
Global Amnesia(TGA). Please follow up with Dr ___. 
 
Followup Instructions:
___